US05204476
2-(4-Hydroxy-2-fluorophenyl)-5-octyloxypyridine, which is alkylated with 1-bromodecane to produce 2-(4-n-decyloxy-2-fluorophenyl)-5-octyloxypyridine, is obtained analogously by reacting 4-benzyloxy-2-fluoroacetophenone with 2-octyloxytrimethinium perchlorate, ammonium acetate 5. and hydrogenating cleavage of the benzyl ether.

reactant | 2-(4-Hydroxy-2-fluorophenyl)-5-octyloxypyridine | OC1=CC(=C(C=C1)C1=NC=C(C=C1)OCCCCCCCC)F | C19H24FNO2
reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
product | 2-(4-n-decyloxy-2-fluorophenyl)-5-octyloxypyridine | C(CCCCCCCCC)OC1=CC(=C(C=C1)C1=NC=C(C=C1)OCCCCCCCC)F | C29H44FNO2
